US07709466B2
d) 2-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-6-(4-methyl-piperazin-1-ylmethyl)-indole-1-carboxylic acid tert-butyl ester
500 mg 2-(6-Chloro-3-methoxy-pyridazin-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-indole-1-carboxylic acid tert-butyl ester, 233 mg 2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol, 180 mg sodium carbonate, and 98 mg tetrakis(triphenylphosphine)palladium(0) are dissolved in a mixture of 6.7 mL dimethoxyethane and 0.85 mL water. Argon is bubbled through the solution for 5 minutes. The mixture is heated to reflux for 5 hours. After diluting with EtOAc, the organic phase is washed with water and brine, dried with MgSO4 and concentrated in vacuo. 475 mg crude product are obtained.

reactant | 2-(6-Chloro-3-methoxy-pyridazin-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-indole-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CN1CCN(CC1)C)C1=C(N=NC(=C1)Cl)OC | C24H30ClN5O3
reactant | 2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 233 mg | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)O | C14H21BO3
reactant | sodium carbonate | 180 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 6.7 mL | C(OC)COC | C4H10O2
solvent | water | 0.85 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 98 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-6-(4-methyl-piperazin-1-ylmethyl)-indole-1-carboxylic acid tert-butyl ester | 475 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CN1CCN(CC1)C)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)C)O)C)OC | C32H39N5O4
